US04808213
19.2 g (0.068 mol) of ethyl 2-(3-chloro-6-ethyl-2-methyl-N-formylanilino)-3-hydroxy-acrylate were heated to an internal temperature of 153° C. with 12.3 g (0.088 mol) of ammonium benzoate in 100 ml of xylene with removal of the xylene/water mixture by distillation. The mixture was allowed to cool and was taken up in toluene, and the organic phase was washed twice with 2N sodium hydroxide solution and twice with water, dried over sodium sulfate and evaporated. 15.2 g (85% of theory) of ethyl 1-(3-chloro-6-ethyl-2-methylphenyl)-imidazole-5-carboxylate were obtained as a pale brown oil. Identification was effected by 1H NMR spectroscopy.

reactant | ethyl 2-(3-chloro-6-ethyl-2-methyl-N-formylanilino)-3-hydroxy-acrylate | 0.068 mol, 19.2 g | ClC=1C(=C(N(C=O)C(C(=O)OCC)=CO)C(=CC1)CC)C | C15H18ClNO4
reactant | ammonium benzoate | 0.088 mol, 12.3 g | C(C1=CC=CC=C1)(=O)[O-].[NH4+]
reactant | xylene water | C=1(C(=CC=CC1)C)C.O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-(3-chloro-6-ethyl-2-methylphenyl)-imidazole-5-carboxylate | 15.2 g, 85% | ClC=1C(=C(C(=CC1)CC)N1C=NC=C1C(=O)OCC)C | C15H17ClN2O2
